US07381741B2
cis-[2-(3-Chloro-phenyl)-pyrrolidin-3-yl]-(2-methoxy-benzyl)-amine dihydrobromide
A mixture of cis-3-amino-2-(3-chloro-phenyl)-pyrrolidine-1-carboxylic acid benzyl ester p-toluenesulfonate (0.32 mmol), obtained from preparatory example 7,2-methoxy-benzaldehyde (0.034 g, 0.34 mmol), and sodium triacetoxyborohydride (0.082 g, 0.38 mmol) was stirred in 3 mL of methylene chloride at rt for 16 h. The reaction was washed 1× with 1M NaOH, dried through cotton, and concentrated to give an oil. The oil was dissolved in acetic acid (1 mL) and a solution of 30% hydrogen bromide in acetic acid (0.302 g, 1.12 mmol) was added. The solution was stirred for 16 h and the resultant solids were collected, washed with ether, and concentrated under vacuum. Trituration with hot isopropanol provided 0.082 g (50%) of title compound. 1H NMR (2HBr, CD3OD) δ 7.72 (s, 1H), 7.63-7.59 (m, 3H), 7.44-7.40 (t, J=7.89 Hz, 1H), 7.31-7.29 (d, J=7.48 Hz, 1H), 7.04-7.02 (d, J=8.31 Hz, 1H), 6.99-6.96 (t, J=7.48 Hz, 1H), 5.25-5.23 (d, J=7.47 Hz, 1H), 4.39-4.33 (q, J=7.47 Hz, 1H), 4.26-4.23 (d, J=12.86 Hz, 1H), 4.13-4.10 (d, J=12.86 Hz, 1H), 3.93-3.87 (ddd, J=12.0, 9.55, 3.74 Hz, 1H), 3.81 (s, 3H), 3.59-3.51 (m, 1H), 2.81-2.74 (m,1H), 2.66-2.58 (m, 1H). MS APCI: [M+H]+=317.3

reactant | cis-3-amino-2-(3-chloro-phenyl)-pyrrolidine-1-carboxylic acid benzyl ester p-toluenesulfonate | 0.32 mmol | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H](CC1)N)C1=CC(=CC=C1)Cl
reactant | sodium triacetoxyborohydride | 0.38 mmol, 0.082 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrogen bromide | Br | BrH
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.12 mmol, 0.302 g | C(C)(=O)O | C2H4O2
product | cis-[2-(3-Chloro-phenyl)-pyrrolidin-3-yl]-(2-methoxy-benzyl)-amine dihydrobromide | 0.082 g, 50% | Br.Br.ClC=1C=C(C=CC1)[C@@H]1NCC[C@@H]1NCC1=C(C=CC=C1)OC | InChI=1S/C18H21ClN2O.2BrH/c1-22-17-8-3-2-5-14(17)12-21-16-9-10-20-18(16)13-6-4-7-15(19)11-13;;/h2-8,11,16,18,20-21H,9-10,12H2,1H3;2*1H/t16-,18-;;/m0../s1
